US06177067B1
2,2-Dimethyl-3-(octadecyloxy)-1-propanol
To an N,N-dimethylformamide solution (50 ml) containing 2.500 g of 2,2-dimethyl-1,3-propanediol was added an about 60% oil suspension containing 2.112 g of sodium hydride. After the reaction mixture was stirred under cooling with ice for 1 hour, 9.930 g of 1-bromo-octadecane was added dropwise thereto. After the reaction mixture was stirred at room temperature for 16.5 hours, water was added thereto and this mixture was extracted with hexane and ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=100:0 to 20:1). Thus, 4.700 g of the title compound was obtained in the form of a white solid.

reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 2,2-dimethyl-1,3-propanediol | 2.500 g | CC(CO)(CO)C | C5H12O2
reactant | sodium hydride | 2.112 g | [H-].[Na+]
reactant | 1-bromo-octadecane | 9.930 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
solvent | water | O | H2O
product | 2,2-Dimethyl-3-(octadecyloxy)-1-propanol | 4.700 g | CC(CO)(COCCCCCCCCCCCCCCCCCC)C | C23H48O2
